US09233098B2
4. Preparation of ethyl 2-[1-[[6-(2-naphthamido)pyridin-3-yl]methyl]-1H-indazol-3-yl]acetate
Ethyl 2-(1H-indazol-3-yl)acetate (320 mg, 1.57 mmol) was dissolved in anhydrous tetrahydrofuran (50 mL). Cesium carbonate (1.53 g, 4.70 mmol) was added, and stirred at room temperature for half an hour. Then N-[5-(bromomethyl)pyridin-2-yl]-2-naphthamide (532 mg, 1.56 mmol) was added. After reacted for 16 hours, the solid was filtered. The filtrate was concentrated, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a light yellow solid 154 mg, at a yield of 21.2%.

reactant | Ethyl 2-(1H-indazol-3-yl)acetate | 1.57 mmol, 320 mg | N1N=C(C2=CC=CC=C12)CC(=O)OCC | C11H12N2O2
reactant | Cesium carbonate | 4.70 mmol, 1.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-[5-(bromomethyl)pyridin-2-yl]-2-naphthamide | 1.56 mmol, 532 mg | BrCC=1C=CC(=NC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H13BrN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl 2-[1-[[6-(2-naphthamido)pyridin-3-yl]methyl]-1H-indazol-3-yl]acetate | 154 mg, yield of 21.2% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(C=N1)CN1N=C(C2=CC=CC=C12)CC(=O)OCC | C28H24N4O3
